US04256736
Coupling of 7.85 g Z-Val-ONp with 5.53 p H-Thr-Leu-OtBu in 160 ml DMF in the way described in C(2) provides Z-Val-Thr-Leu-OtBu in 72% yield.

reactant | Z-Val-ONp | 7.85 g | CC(C)[C@@H](C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])NC(=O)OCC2=CC=CC=C2 | C19H20N2O6
reactant | H-Thr-Leu-OtBu | N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C | C14H28N2O4
solvent | DMF | 160 ml | CN(C)C=O | C3H7NO
product | Z-Val-Thr-Leu-OtBu | 72% yield | N([C@@H](C(C)C)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C27H43N3O7
